US06461876B1
(a) Synthesis of 8-n-propyl-2-hydroxytricyclo[7.3.1.02,7]tridecan-13-one (24)
Into a three-neck 500 mL round bottom flask equipped with magnetic stirrer and an oil bath under nitrogen was added 250 parts of cyclohexanone. The oil bath temperature was maintained at 70-75° C. with stirring. A solution of 2.5 parts of potassium hydroxide dissolved in 25 mL of absolute ethyl alcohol was added to the reaction flask in one portion. Thirty parts of butyraldehyde was dissolved in 35 mL of absolute ethyl alcohol and added dropwise to the reaction flask over a period of 6 hours. The reaction mixture was stirred at 70-75° C. for the 15 hours. After the reaction mixture was cooled to room temperature and refrigerated for 15 hours. The inside surface of the flask was scratched with a glass rod to precipitate out the white material and the flask was refrigerated for additional 4-5 hours. The white solid material was filtered and washed with 50 mL of cold water and then with 50 mL cold ether. The recovered solid was dried at room temperature and the yield was 35 parts. The solid showed a single spot on silica gel TLC plate eluted with 10% ethyl acetate/hexane. The structure of the material was confirmed on the basis of 1H NMR. This reaction proceded as follows:

reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | potassium hydroxide | [OH-].[K+]
reactant | butyraldehyde | C(CCC)=O | C4H8O
solvent | ethyl alcohol | 25 mL | C(C)O | C2H6O
solvent | ethyl alcohol | 35 mL | C(C)O | C2H6O
product | 8-n-propyl-2-hydroxytricyclo[7.3.1.02,7]tridecan-13-one | C(CC)C1C2CCCCC2(C2CCCC1C2=O)O | C16H26O2
